US04592867
Preparation of 2-isopropoxy-1,4-anthraquinone (5) (IPAQ)
17 ml of cold borontrifluoride etherate was added to a suspension of 7 g of 2-methoxy-1,4-anthraquinone in 120 ml of isopropanol. The reaction was carried at 70°-80° C. overnight. After partially concentrated, the reaction mixture was left at room temperature and the crude product was obtained as dark brown precipitate. Recrystallization from isopropanol yielded 5 g of pure yellow needles of IPAQ.

reactant | borontrifluoride etherate | 17 ml | B(F)(F)F.CCOCC
reactant | 2-methoxy-1,4-anthraquinone | 7 g | COC=1C(C2=CC3=CC=CC=C3C=C2C(C1)=O)=O | C15H10O3
reactant | isopropanol | 120 ml | C(C)(C)O | C3H8O
product | 2-isopropoxy-1,4-anthraquinone | 5 g | C(C)(C)OC=1C(C2=CC3=CC=CC=C3C=C2C(C1)=O)=O | C17H14O3
